US06211244B1
A stirred solution of sodium hydride (1.8 g, 75 mmol) in dimethylformamide (150 ml) was treated with a solution of diethylcyanomethyl phosphonate (13.3 g, 75 mmol) in dimethylformamide (50 ml). The reaction was stirred 30 min at rt. After this time the reaction was treated with 3-chlorobenzaldehyde (10.54 g, 75 mmol) and stirred 1 hr at rt and 30 min at 60° C. The reaction was then quenched by the addition of water (200 ml). The reaction mixture was transferred to a separatory funnel using diethyl ether (300 ml) and the resulting organic phase washed with water (5×300 ml) and brine. The organic layer was dried over anhydrous potassium carbonate and concentrated to yield 3-chlorocinnamonitrile (11.06 g) as a solid. The solid was dissolved in tetrahydrofuran (50 ml) and treated with excess diborane and stirred 30 min at rt. The reaction was poured over ice/10% HCl. The acidic aqueous phase was washed with diethyl ether (2×200 ml). The aqueous phase was made basic by the addition of 10 N NaOH and extracted with diethyl ether (200 ml). The ether extract was dried over anhydrous potassium carbonate and concentrated to afford 3-(3-chlorophenyl)propylamine as an oil (0.6 g, 3.54 mmol). The 3-(3-chlorophenyl)propylamine (0.60 g, 3.54 mmol), 3′-methoxyacetophenone (0.53 g, 3.54 mmol) and 1.25 molar equivalents titanium(IV) isopropoxide (1.26 g, 4.43 mmol) were mixed 4 hr at rt and the intermediate imine treated with an ethanolic sodium cyanoborohydride (5 ml of 1 M, 5 mmol). The reaction was stirred 16 hr at rt, diluted with diethyl ether (50 ml) and treated with water (0.32 ml, 17.7 mmol). After mixing thoroughly the solution was centrifuged and the ether layer concentrated to a milky solid. This material was suspended in diethyl ether and filtered through a 0.45 μM CR PTFE Acrodisc. The ether wash was concentrated to an oil. Chromatography of this material (silica, preparative thin-layer chromatography) using 3% methanol-dichloromethane (containing 0.1% isopropylamine) afforded N-[3-(3-dichlorophenyl)propyl]-1-(3-methoxyphenyl)ethylamine, 6X; m/z (rel. int.) 303 (M+, 3), 288 (40), 196 (3), 164 (8), 135 (100), 125 (46), 103 (26), 91 (29), 77 (29).

reactant | sodium hydride | 75 mmol, 1.8 g | [H-].[Na+]
reactant | diethylcyanomethyl phosphonate | 75 mmol, 13.3 g | P(OC(C#N)(CC)CC)([O-])=O
reactant | 3-chlorobenzaldehyde | 75 mmol, 10.54 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-chlorocinnamonitrile | 11.06 g | ClC=1C=C(C=CC#N)C=CC1 | C9H6ClN
